US05605910
A. 1-Dimethylamino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione
9 g (73 mmol) of 1-dimethylaminocyclohexa-1,3-diene and 6.4 g (66 mmol) of maleimide are stirred in 100 ml of absolute dioxane at room temperature overnight. The mixture is concentrated and the residue is recrystallized from isopropanol.

reactant | 1-dimethylaminocyclohexa-1,3-diene | 73 mmol, 9 g | CN(C1=CC=CCC1)C | C8H13N
reactant | maleimide | 66 mmol, 6.4 g | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Dimethylamino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | CN(C12C3C(NC(C3C(C=C1)CC2)=O)=O)C | C12H16N2O2
